US09359359B2
To a solution of 6-amino-3-methylpyrimidine-2,4(1H,3H)-dione (6 g, 42.6 mmol) in acetic acid (50 mL) was added a solution of sodium nitrite (6.8 g, 98.6 mmol) in water (20 mL) dropwise, then the mixture was stirred at room temperature for 1 h. The mixture was filtered, the filter cake was washed with water and ethanol and dried under vacuum to give 6-amino-3-methyl-5-nitrosopyrimidine-2,4(1H,3H)-dione as violet solid, which was used directly in the next step.

reactant | 6-amino-3-methylpyrimidine-2,4(1H,3H)-dione | 42.6 mmol, 6 g | NC1=CC(N(C(N1)=O)C)=O | C5H7N3O2
reactant | sodium nitrite | 98.6 mmol, 6.8 g | N(=O)[O-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | water | 20 mL | O | H2O
product | 6-amino-3-methyl-5-nitrosopyrimidine-2,4(1H,3H)-dione | NC1=C(C(N(C(N1)=O)C)=O)N=O | C5H6N4O3
